US08283353B2
4-(trans-4-{[(3R,4S)-4-hydroxytetrahydrofuran-3-yl]oxy}cyclohexyl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one
A mixture of 4′-({5-oxo-7-propyl-4-[(3a′R,6a′S)-tetrahydrospiro[cyclohexane-1,2′-furo[3,4-d][1,3]dioxol]-4-yl]-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile (0.14 g), tert-butyl(dimethyl)silyl trifluoromethanesulfonate (0.087 mL), 2,6-lutidine (0.044 mL) and tetrahydrofuran (5 mL) was stirred at 0° C. for 3 hr. The reaction mixture was diluted with ethyl acetate, washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue obtained by silica gel column chromatography was dissolved in dimethyl sulfoxide (5 mL), and the mixture was added to a mixture of hydroxylammonium chloride (0.26 g), sodium hydrogen carbonate (0.42 g) and dimethyl sulfoxide (5 mL), which had been stirred in advance at 40° C. for 30 min. The reaction mixture was stirred at 90° C. for 16 hr, diluted with ethyl acetate, washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was dissolved in tetrahydrofuran (10 mL). N,N′-Carbonyldiimidazole (0.049 g) and then 1,8-diazabicyclo[5.4.0]undec-7-ene (0.041 mL) were added, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated aqueous potassium hydrogensulfate solution and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was dissolved in tetrahydrofuran (10 mL). Tetrabutylammonium bromide (1.0 M tetrahydrofuran solution, 1.7 mL) was added, and the mixture was stirred at room temperature for 3 hr. The reaction mixture was extracted with 1 N hydrochloric acid and ethyl acetate, and the ethyl acetate layer was washed with saturated brine and concentrated. The residue was purified by silica gel column chromatography to give the title compound as a colorless amorphous solid (0.04 g, 26%).

reactant | 4′-({5-oxo-7-propyl-4-[(3a′R,6a′S)-tetrahydrospiro[cyclohexane-1,2′-furo[3,4-d][1,3]dioxol]-4-yl]-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.14 g | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)C2CCC1(O[C@H]3[C@@H](O1)COC3)CC2 | C32H33N5O4
reactant | tert-butyl(dimethyl)silyl trifluoromethanesulfonate | 0.087 mL | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
reactant | 2,6-lutidine | 0.044 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | hydroxylammonium chloride | 0.26 g | [Cl-].O[NH3+]
reactant | sodium hydrogen carbonate | 0.42 g | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-(trans-4-{[(3R,4S)-4-hydroxytetrahydrofuran-3-yl]oxy}cyclohexyl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 0.04 g, 26% | O[C@@H]1[C@@H](COC1)O[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NOC(N1)=O)CCC)N=CN2 | C33H36N6O6
